US04250108
Example 15: Preparation of 4-methyl-5-(2-oxo-3-bornylidene methyl) benzene sulfonic acid having the formula
25.4 g of 3-o-methylbenzylidene camphor are dissolved with stirring in 84 ml of oleum containing 20% by weight SO3 with cooling so as to maintain the temperature below 25° C. Stirring of the resulting reaction mixture is continued for an additional 30 minutes at ambient temperature at which time it is poured into 200 ml of crushed ice. The precipitate which forms is filtered and crystallized in 100 ml of acetone to produce white crystals melting at 130° C. and corresponding to the dihydrate.

reactant | 3-o-methylbenzylidene camphor | 25.4 g | CC1=C(C=C2C(C3(CCC2C3(C)C)C)=O)C=CC=C1 | C18H22O
reactant | oleum | 84 ml | OS(=O)(=O)O.O=S(=O)=O
product | 4-methyl-5-(2-oxo-3-bornylidene methyl) benzene sulfonic acid | CC1=CC=C(C=C1C=C1C(C2(CCC1C2(C)C)C)=O)S(=O)(=O)O | C18H22O4S
